US05068325
8h) 2-Amino-6-(3-(4-methylsulphinyl-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine-hydrate
Prepared from 4-methylsulphinyl-cinnamyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine in chloroform. Yield: 48% of theory, Melting point: 171°-176° C. (ether).

reactant | 4-methylsulphinyl-cinnamyl chloride | CS(=O)C1=CC=C(C=CCCl)C=C1 | C10H11ClOS
reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | ether | CCOCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(4-methylsulphinyl-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine-hydrate | Yield: 48% | O.NC=1SC=2CCN(CCC2N1)CC=CC1=CC=C(C=C1)S(=O)C | InChI=1S/C17H21N3OS2.H2O/c1-23(21)14-6-4-13(5-7-14)3-2-10-20-11-8-15-16(9-12-20)22-17(18)19-15;/h2-7H,8-12H2,1H3,(H2,18,19);1H2
